US04459225
(b) Glycyl-phenylalanine-hydrochloride
23 g of benzyloxycarbonyl-glycyl-phenylalanine are dissolved in 250 ml of a methanol/dimethylformamide mixture (1:1) and submitted to hydrogenation by adding 1 g of palladium/charcoal (5% of Pd) (Pd/C) as the catalyst. The pH is kept constant at 4.5 by adding methanolic hydrochloric acid. After removal of the catalyst, the filtrate is concentrated in vacuo and the residue is precipitated from methanol by adding ether.

reactant | benzyloxycarbonyl-glycyl-phenylalanine | 23 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C19H20N2O5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol dimethylformamide | 250 ml | CO.CN(C=O)C
catalyst | palladium/charcoal | 1 g | [Pd] | Pd
product | Glycyl-phenylalanine-hydrochloride | Cl.NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/C11H14N2O3.ClH/c12-7-10(14)13-9(11(15)16)6-8-4-2-1-3-5-8;/h1-5,9H,6-7,12H2,(H,13,14)(H,15,16);1H/t9-;/m0./s1
